US04451484
The reaction between 5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-4-carboxylic acid (1.7 g, 0.0067 mole) and borane-tetrahydrofuran complex (1.16 g of a 1.05 M solution in tetrahydrofuran) in tetrahydrofuran (50 ml) produced 5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-4-methanol as an oil (1.38 g). The IR and nmr spectra were consistent with the proposed structure.

reactant | 5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-4-carboxylic acid | 0.0067 mole, 1.7 g | C1=CC=C(C2=C1C1=C(CCCC2)C=CC=C1)C(=O)O | C17H16O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-4-methanol | 1.38 g | C1=CC=C(C2=C1C1=C(CCCC2)C=CC=C1)CO | C17H18O
